US07368578B2
A mixture of methyl 3-formylbenzoate (11.10 g), 2,3-butanedione-2-oxime (6.84 g) and 4N hydrogenchloride-ethyl acetate solution (100 mL) was stirred at room temperature for 4 days. The reaction mixture was concentrated, and the obtained crystals were washed with diethyl ether. Tetrahydrofuran (150 mL) was added to the crystals and thionyl chloride (12.06 g) was further added. The mixture was heated under reflux for 3 hrs. After concentration of the reaction mixture, saturated aqueous sodium hydrogen carbonate was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give methyl 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)benzoate as colorless crystals (9.88 g, 55%) from a fraction eluted with ethyl acetate-hexane (1:4, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 119-120° C.

reactant | methyl 3-formylbenzoate | 11.10 g | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
reactant | 2,3-butanedione-2-oxime | 6.84 g | CC(C(C)=O)=NO | C4H7NO2
reactant | hydrogenchloride ethyl acetate | 4N, 100 mL | Cl.C(C)(=O)OCC
product | methyl 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)benzoate | 9.88 g, 55% | ClCC=1N=C(OC1C)C=1C=C(C(=O)OC)C=CC1 | C13H12ClNO3
